US06599917B1
b) 2-Benzyl-3-bromo-6-hydroxypyridine
A mixture of 72.5 g of 2-benzyl-3-bromo-6-methoxypyridine and 300 ml of 47% hydrobromic acid was heated under stirring for 4 hours in an oil bath kept at 100° C. After cooling as it was, 500 ml of water was added thereto. The resulting crystals were collected by filtration, washed with water and diethyl ether, air-dried and then dried under heating under reduced pressure, to give 63.8 g of the target compound.

reactant | 2-benzyl-3-bromo-6-methoxypyridine | 72.5 g | C(C1=CC=CC=C1)C1=NC(=CC=C1Br)OC | C13H12BrNO
reactant | hydrobromic acid | 300 ml | Br | BrH
solvent | water | 500 ml | O | H2O
product | 2-Benzyl-3-bromo-6-hydroxypyridine | 63.8 g | C(C1=CC=CC=C1)C1=NC(=CC=C1Br)O | C12H10BrNO
